US04440766
To a solution of 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, (3.1 g.) in methanol (30 ml.) was added 1 N sodium hydroxide aqueous solution (5.2 ml.) under ice-cooling and stirring. To the mixture was dropwise added a solution of sodium borohydride (0.074 g.) in water (2 ml.) over 10 minutes, and the mixture was stirred for 30 minutes at the same temperature. After the reaction, the reaction mixture was concentrated under reduced pressure. To the residue were added water and ethyl acetate, and the aqueous layer was separated. The aqueous layer was adjusted to pH 5 to 6 with 10% hydrochloric acid and then washed with ethyl acetate. To the aqueous layer was added ethyl acetate, and the mixture was adjusted to pH 1 to 2 with 10% hydrochloric acid. The ethyl acetate layer was separated, washed with water, dried over magnesium sulfate and then treated with activated charcoal. After distillation of the solvent from the ethyl acetate layer, the remaining residue was pulverized in diethyl ether, collected by filtration and then dried to give pale yellow powder of 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, (2.2 g.).

reactant | 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | S1C(=NN=C1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)NC(=O)OC(C)(C)CC)=O)=O | C21H22N6O7S4
reactant | 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | S1C(=NN=C1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2NC(SC2)=NC(=O)OC(C)(C)CC)=O)=O | C21H22N6O7S4
reactant | sodium hydroxide | 1 N, 5.2 ml | [OH-].[Na+]
reactant | sodium borohydride | 0.074 g | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 3-(1,3,4-thiadiazol-2-yl)thiomethyl-7-[2-hydroxy-2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | S1C(=NN=C1)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)NC(=O)OC(C)(C)CC)O)=O)=O | C21H24N6O7S4
